2128-02-27 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - START [**2128-2-26**] 05:51 PM
   venous sheath
 SHEATH - STOP [**2128-2-26**] 07:41 PM
   venous sheath
   [**Date range (1) 1972**]
   - underwent successful valvuloplasty
   - hypertensive post-procedure, started her on lisinopril 20 (could
   increase to home dose 40), and carvedilol
   - area went from 0.6 to 1.
   Allergies:
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish
   Anaphylaxis;
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-27**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 67 (60 - 69) bpm
   BP: 155/55(81) {110/41(65) - 196/95(105)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,210 mL
                                                                    360 mL
   PO:
                                                                     60 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  1,233 mL
                                                                    380 mL
   Urine:
                                                                  1,233 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -23 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: Pleasant elderly woman in NAD, looks pale
   HEENT: MMM
   NECK: Supple
   CARDIAC: [**1-3**] crescendo/decrescendo murmur with preserved S2 and no
   pulsus parvus tardus. No significant JVD. No rubs or gallops.
   LUNGS: CTAB, no WRR
   ABDOMEN: Soft, NTND, +BS, obese
   EXTREMITIES: No edema,
   SKIN: No rashes
   PULSES: 1+ DP pulses bl, 1+ R radial, left radial not palpable
   Comprehensive neuro exam including full cranial nerves ([**1-9**]), upper
   and lower extremity strength 5/5 flexion/extension, bicep and patellar
   reflexes 1+ BL, Babinski
s downgoing BL, light touch sensation intact
   throughout, no dysdiadokinesia, normal fine motor coordination, normal
   finger to nose completed on [**2128-2-25**].
   Labs / Radiology
   111 K/uL
   9.0 g/dL
   98 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.6 mEq/L
   39 mg/dL
   110 mEq/L
   140 mEq/L
   27.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2128-2-25**]  02:07 PM
                             [**2128-2-26**]  06:43 AM
                             [**2128-2-26**]  11:06 PM
   WBC
   5.8
   4.2
   Hct
   27.6
   26.8
   27.7
   Plt
   121
   111
   Cr
   1.3
   1.3
   TropT
   0.02
   0.03
   Glucose
   109
   98
   Other labs: PT / PTT / INR:12.7/24.8/1.1, CK / CKMB /
   Troponin-T:43//0.03, ALT / AST:[**7-14**], Alk Phos / T Bili:55/0.3, Amylase
   / Lipase:/50, Differential-Neuts:77.8 %, Lymph:17.2 %, Mono:4.3 %,
   Eos:0.5 %, Albumin:3.9 g/dL, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Imaging: ECHO [**2128-2-27**]:
   There are three aortic valve leaflets. The aortic valve leaflets are
   severely thickened/deformed. Significant aortic stenosis is present
   (not quantified). Mild (1+) aortic regurgitation is seen. There is no
   pericardial effusion.
   Compared with the findings of the prior study (images reviewed) of [**2127-12-5**], the peak systolic flow velocity across the aortic valve
   is significantly lower. The aortic regurgitation is about the same.
   CATH PRELIM [**2128-2-26**]:
   Aortic valve area 0.68cm2 with a PCWP =14-16 mm Hg. An 18mm x 6cm
   Tyshak balloon was used with rapid ventricular pacing at the RV apex
   with a total of 2 inflations. After the procedure, there was [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   0.96cm2 with a PCWP = 16 mmHg. The aortic pressure was 205/64 mmHg
   before the procedure and 205/65 mmHg after the procedure. Angiography
   demonstrated 1+ AR. Abdominal aortography showed vessel > 6mm diameter
   from the aorta to the femorals.
   Microbiology: Urine cx negative
   Assessment and Plan
 AORTIC STENOSIS
   Assessment and Plan
 AORTIC STENOSIS
   ASSESSMENT AND PLAN
   76 yo woman with history of CAD s/p CABG in [**2124**] (SVG->LAD, SVG->OM1
   occluded since [**2125**], SVG->RCA) and critical aortic stenosis (valve area
   0.68cm2 and gradient of 25 by cath [**12-7**]) who presents from outside
   hospital after an episode of syncope at home earlier this morning.
   .
   # Critical AS
   Pt s/p successful valvuloplasty. Either primarily or indirectly related
   to syncope. Echo confirms successful valvuloplasty. No neurologic
   sequelea noted.
   - discharge home
   - pt set to follow up with her cardiologist Dr. [**Last Name (STitle) 12031**]
   #  HTN: Hypertensive on floor after procedure.
   - Restarting home meds: Carvedilol 25 mg PO/NG [**Hospital1 **], Lisinopril 40 mg
   PO/NG [**Hospital1 **]
   - Make sure to check pressures on R arm.
   #  Syncope
   No further episodes. Syncope in the context of AS is rare, but can
   happen with severe disease. Likely developed AF with unstable rhythm
   and likely loss of
atrial kick
. Also tachy-brady syndrome with HR in
   20s-30s in the context of AF, which with loss of atrial kick may have
   caused drop in CO and cerebral perfusion in setting of vomitting and
   diarrhea.
   - Monitor tele for tachycardia or arrythmias
 none
   - Pt
s cardiologist to consider home [**Doctor Last Name 5630**] of Hearts holter monitor
   - Avoid nitrates
   .
   #  Chest pain: resolved
   Unclear etiology, pt not a clear historian, but valves are innervated
   and valular pain also, albeit less likely, on differential.  Possibly
   demand ischemia in setting of dehydration, stress. Possibly
   gastrointestinal causes given N/V and diarrhea. Currently, pt in normal
   sinus rhythm without significant ST-T wave changes. Pt ruled out for
   MI.
   - Monitor tele
   - Continue asa, statin
   - Consider PPI if pain recurs
   .
   # Nausea, vomitting, diarrhea: Resolved. Most consistent with viral
   gastroenteritis leading to mild hypovolemia.
   - If diarrhea continues check C diff
   - Monitor
   .
   # Mild ARF: Resolved. Was likely [**12-30**] dehyrdation in setting of poor PO
   intake, vomitting, diarrhea.
   - Monitor creatinine
   .
   #  CAD: Plan per above.
   . .
   #  HLP:
   - Continue statin
   .
   FEN: Low sodium diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with tylenol PRN
   .
   CODE: Full code
   .
   COMM: [**Name (NI) 53**]
   .
   DISPO: Discharge home today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-2-25**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) **].
   I would add the following remarks:
   History
   Doing well s/p balloon aortic valvuloplasty with final [**Location (un) **] = 0.96 cm2
   with 1+ aortic regurgitation.
   Medical Decision Making
   BP under better control.  No recurrence of atrial fibrillation or sinus
   bradycardia.
   Discharge to home today.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2128-2-27**] 15:36 ------